US06884868B1
To a solution of 4-[4-[4-(4-chlorophenyl)-4-methoxypiperidin-1-yl]phenyl]piperazine-1-carboxylic acid tert-butyl ester (1.56 g) in ethyl acetate (62 ml) was added dropwise 4N-HCl/ethyl acetate (40 ml) at ambient temperature. The reaction mixture was stirred for 33 hours at ambient temperature. The precipitate was collected by filtration, and dried under reduced pressure to give 4-[4-[4-(4-chlorophenyl)-4-methoxypiperidin-1-yl]phenyl]piperazine trihydrochloride salt (1.52 g).

reactant | 4-[4-[4-(4-chlorophenyl)-4-methoxypiperidin-1-yl]phenyl]piperazine-1-carboxylic acid tert-butyl ester | 1.56 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)(OC)C1=CC=C(C=C1)Cl | C27H36ClN3O3
reactant | HCl ethyl acetate | 40 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 62 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-[4-(4-chlorophenyl)-4-methoxypiperidin-1-yl]phenyl]piperazine trihydrochloride salt | 1.52 g | Cl.Cl.Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C1=CC=C(C=C1)N1CCNCC1)OC | InChI=1S/C22H28ClN3O.3ClH/c1-27-22(18-2-4-19(23)5-3-18)10-14-25(15-11-22)20-6-8-21(9-7-20)26-16-12-24-13-17-26;;;/h2-9,24H,10-17H2,1H3;3*1H
